US06407096B1
Methyl (1-(2-(1,1-diphenylethylthio)ethyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-6-yloxy)acetate
Methyl (1-(2-hydroxyethyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-6-yloxy)acetate (370 mg) was dissolved in methylene chloride (15 ml), and the resultant solution was stirred at 0° C. Triphenylphosphine (1085 mg) and carbon tetrabromide (922 mg) were added to the solution, and the mixture was stirred at 0° C. After disappearance of the raw materials was confirmed, a saturated sodium bicarbonate aqueous solution (15 ml) was added to the reaction solution, and the mixture was then extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated. The resultant residue was purified by column chromatography (silica gel:hexane/ethyl acetate=1/1) to obtain a crude product. 1,1-diphenylethanethiol (428 mg) was dissolved in DMF (10 ml) under an argon atmosphere, and the resultant solution was stirred at 0° C. Sodium hydride (65 mg) was added to the solution, and the mixture was stirred at 0° C. for 5 minutes. A solution of the crude product in DMF (3 ml) was added to the mixture at 0° C. After disappearance of the raw materials was confirmed, the reaction solution was added to a saturated ammonium chloride aqueous solution (30 ml), and then extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated. The resultant residue was purified by column chromatography (silica gel:hexane/ethyl acetate=8/1) to obtain the object compound (532 mg, yield 84%).

reactant | Methyl (1-(2-hydroxyethyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-6-yloxy)acetate | 370 mg | OCCN1CCCCC2=C1C=CC=C2OCC(=O)OC | C15H21NO4
reactant | Triphenylphosphine | 1085 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 922 mg | C(Br)(Br)(Br)Br | CBr4
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
reactant | 1,1-diphenylethanethiol | 428 mg | C1(=CC=CC=C1)C(C)(S)C1=CC=CC=C1 | C14H14S
reactant | Sodium hydride | 65 mg | [H-].[Na+]
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | Methyl (1-(2-(1,1-diphenylethylthio)ethyl)-2,3,4,5-tetrahydro-1H-1-benzazepin-6-yloxy)acetate | 532 mg, yield 84% | C1(=CC=CC=C1)C(C)(SCCN1CCCCC2=C1C=CC=C2OCC(=O)OC)C2=CC=CC=C2 | C29H33NO3S
